US07674791B2
A stirred solution of 3,5-dibromo-pyrazin-2-ylamine (500 mg, 1.98 mmol), thiophene-2-carbonitrile (260 uL, 2.04 mmol) and AlCl3 (232 mg, 1.74 mmol) in dichloroethane (5 ml) was heated at 115° C. overnight. The mixture was allowed to cool to room temperature and diluted with water (5 mL). After 30 minutes, the resulting precipitate was collected and purified by column chromatography (SiO2, THF) to afford 488 mg (68%) of N-(3,5-dibromo-pyrazin-2-yl)-thiophene-2-carboxamidine as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 7.22 (t, J=3.9 Hz, 1H), 7.83 (dd, J=4.8 Hz, 1H), 7.99 (d, J=4.1 Hz, 1H), 8.49 (s, 1H), 8.88 (br. s, 1H).

reactant | 3,5-dibromo-pyrazin-2-ylamine | 1.98 mmol, 500 mg | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | thiophene-2-carbonitrile | 2.04 mmol, 260 uL | S1C(=CC=C1)C#N | C5H3NS
reactant | AlCl3 | 1.74 mmol, 232 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 5 mL | O | H2O
product | N-(3,5-dibromo-pyrazin-2-yl)-thiophene-2-carboxamidine | 488 mg, 68% | BrC=1C(=NC=C(N1)Br)NC(=N)C=1SC=CC1 | C9H6Br2N4S
